US04150135
A. 2-Methoxyphenyl-4-methylcyclohexanone
4-Methylcyclohexanone (224 g, 2 moles) was added dropwise rapidly to a cooled, stirred suspension of 170 g (4 moles) of sodium amide in 2 l of tetrahydrofuran under nitrogen. After the addition was complete, the ice bath was removed and the mixture was heated at reflux until the evolution of ammonia ceased (~3 hours). While still at reflux, 142.5 g (1 mole) of o-chloroanisole was added rapidly dropwise and the mixture was heated for an additional hour, until evolution of ammonia ceased.

reactant | 4-Methylcyclohexanone | 2 moles, 224 g | CC1CCC(CC1)=O | C7H12O
reactant | sodium amide | 4 moles, 170 g | [NH2-].[Na+]
reactant | o-chloroanisole | 1 mole, 142.5 g | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 2 l | O1CCCC1 | C4H8O
product | 2-Methoxyphenyl-4-methylcyclohexanone | COC1=C(C=CC=C1)C1C(CCC(C1)C)=O | C14H18O2
